US08309721B2
In a microwave reactor, a mixture of 1.015 g of 9-(3-bromo-4-cyanophenyl)-9H-carbazole-4-carboxylic acid methyl ester, obtained according to stage 3 of Example 1, 444 mg of acetamide, 71 mg of trans-N,N′-dimethylcyclohexane-1,2-diamine, 1.039 g of potassium carbonate and 95 mg of copper iodide in 20 ml of dioxane is heated at 160° C. for 1.5 hours. The reaction medium is poured into 200 ml of ethyl acetate. The organic phase is washed with 100 ml of a saturated solution of sodium bicarbonate. The aqueous phase is re-extracted with twice 100 ml of ethyl acetate. The combined organic phases are washed with twice 50 ml of a saturated solution of sodium bicarbonate and once with 100 ml of a saturated solution of sodium chloride, dried over magnesium sulphate and evaporated to dryness under vacuum. The residue is chromatographed on silica gel (40-63 μm), elution being carried out with pure dichloromethane. 520 mg of 9-(3-acetylamino-4-cyanophenyl)-9H-carbazole-4-carboxylic acid methyl ester are obtained in the form of an off-white solid, the characteristics of which are the following:

reactant | 9-(3-bromo-4-cyanophenyl)-9H-carbazole-4-carboxylic acid methyl ester | 1.015 g | COC(=O)C1=CC=CC=2N(C3=CC=CC=C3C12)C1=CC(=C(C=C1)C#N)Br | C21H13BrN2O2
reactant | acetamide | 444 mg | C(C)(=O)N | C2H5NO
reactant | trans-N,N′-dimethylcyclohexane-1,2-diamine | 71 mg | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
reactant | potassium carbonate | 1.039 g | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
catalyst | copper iodide | 95 mg | [Cu](I)I
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 9-(3-acetylamino-4-cyanophenyl)-9H-carbazole-4-carboxylic acid methyl ester | 520 mg | COC(=O)C1=CC=CC=2N(C3=CC=CC=C3C12)C1=CC(=C(C=C1)C#N)NC(C)=O | C23H17N3O3
